Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.59913893929
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5],1.54162059161
[C:3]([H:5])=[C:9]([H:10])[H:11].[O:1][C:2]#[C:4][C:6]([H:7])([H:8])[H:12]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.62023445971
[C:10][C:11]([H:12])([H:13])[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:11]([H:12])([H:13])[H:14],-6.89882155036
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5][H:6],5.314865769280001
[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-5.2319282842
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.1054166304499999
[C:7]=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-3.3815890629000003
[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.3628327617400005
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.97537587541
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.78359966263
[C:4][O:8][H:9].[H:1][C:2]#[C:3][C:5][O:6][H:7]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[O:8][H:9],-3.85181435256
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[O:3],0.84695029032
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[O:1]=[C:2][H:3],3.73184030839
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.1872128548
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.97038398253
[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],4.036914382780002
[C:1][O:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],2.38203690146
[C:1]#[C:2][C:3]#[C:4][C:5][C:6]([H:7])[H:8]>>[C:1]#[C:2][C:5][C:6]([H:7])[H:8].[C:3]#[C:4],7.050407340489999
[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.5495283228400005
[H:1][O:2][C:3]([H:4])=[C:8]=[C:9]([H:10])[H:11].[H:5][C:6]([H:7])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[O:12][H:13],-1.18274940718
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11][O:12][H:13],1.51776454387
[H:1][O:2][C:3]([H:4])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.38580258355
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.53505671089
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:1]#[C:2][C:7]([H:8])([H:9])[C:10][O:11][H:12].[C:3]([H:4])([H:5])[H:6],3.63148478398
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11],4.24451611596
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1]#[C:2][C:3][O:7][H:5].[O:4]=[C:6]([H:8])[H:9],0.997080422989
[H:1][O:2]/[C:3]([H:4])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-3.59835997318
